US07041674B2
1.1.: tropenol biphen-2-ylcarbamate
5.0 g (0.026 mol) of 2-biphenylisocyanate is placed in 10 mL acetonitrile, and a solution of 3.619 g (0.026 mol) tropenol in 5 mL acetonitrile is added dropwise, then stirred for 24 hours at ambient temperature. The solution is concentrated by evaporation and the residue is distributed between dichloromethane and water. The organic phase is dried over sodium sulfate and evaporated to dryness. Yield: 7.4 g yellowish-orange oil (85% of theory).

reactant | 2-biphenylisocyanate | 0.026 mol, 5.0 g | C1=CC=C(C=C1)C2=CC=CC=C2N=C=O | C13H9NO
reactant | tropenol | 0.026 mol, 3.619 g | [C@@]12(C=CC[C@H](CC1)N2C)O | C8H13NO
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | tropenol biphen-2-ylcarbamate | C1(=CC=CC=C1C1=CC=CC=C1)NC(=O)O[C@]12C=CC[C@H](CC1)N2C | C21H22N2O2
